US09337358B2
Magnesium turnings (0.528 g, 22 mmol) dissolved and 60 mL of dry THF was placed in a 100 mL round bottom flask. 2-Bromo-3-tetradecylthiophene (7.2 g, 20 mmol) was added dropwise to above solution. The mixture was refluxed until almost all the magnesium turnings disappeared. After the mixture was transferred to a clean flask, dry DMF (4 mL) was added dropwise. The mixture was refluxed overnight and cooled in an ice bath. A 5% HCl solution (20 mL) was added to the reaction mixture. The organic portion was extracted by dichloromethane, washed by a 10% KOH solution (50 mL×3), and dried by MgSO4. After removal of the solvent, the crude product was purified by column chromatography on silica gel (using 5% ethyl acetate in hexane as an eluant) to give 3-teradecylthiophene-2-carboxaldehyde as a colorless oil (yield=50%).

reactant | Magnesium | 22 mmol, 0.528 g | [Mg] | Mg
reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | 2-Bromo-3-tetradecylthiophene | 20 mmol, 7.2 g | BrC=1SC=CC1CCCCCCCCCCCCCC | C18H31BrS
reactant | HCl | 20 mL | Cl | ClH
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-teradecylthiophene-2-carboxaldehyde | yield=50% | C(CCCCCCCCCCCCC)C1=C(SC=C1)C=O | C19H32OS
